US07196104B2
Preparation BV: (2-Chloro-pyridin-4-yl)-piperidin-1-yl-methanone
To 2-chloroisonicotinic acid (1.0 g, 6.35 mmol) in dry CH2Cl2 (50 mL) was added piperidine (1.3 mL, 12.69 mmol), DIEA (2.2 mL, 12.69 mmol), HATU (1.2 g, 3.17 mmol), and EDCI (1.3 g, 6.98 mmol). The mixture was stirred under N2 at RT for 15 h. Solvent was removed and the crude compound was purified by chromatography on silica gel. Elution with hexane:acetone mixture (80:20) gave a white solid. MS m/z: 225.1 (M+H). Calc'd. for C11H13ClN2O-224.07.

reactant | 2-chloroisonicotinic acid | 6.35 mmol, 1.0 g | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | piperidine | 12.69 mmol, 1.3 mL | N1CCCCC1 | C5H11N
reactant | DIEA | 12.69 mmol, 2.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 3.17 mmol, 1.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | EDCI | 6.98 mmol, 1.3 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (2-Chloro-pyridin-4-yl)-piperidin-1-yl-methanone | ClC1=NC=CC(=C1)C(=O)N1CCCCC1 | C11H13ClN2O
